US04826528
2-Amino-4-mercaptopyrido[2,3-d]pyrimidine
2-Amino-4-hydroxypyrido[2,3-d]pyrimidine (8.1 gm) is heated to boiling for ten hours with phosphorus pentasulfide (25 gm) in pyridine (125 ml). After the solvent has been distilled off, the residue is triturated with water, made alkaline with sodium hydroxide solution, and purified with activated charcoal, and the filtrate is acidified with acetic acid. The yellow fine crystalline powder precipitate is washed with water and dried.

reactant | 2-Amino-4-hydroxypyrido[2,3-d]pyrimidine | 8.1 gm | NC=1N=C(C2=C(N1)N=CC=C2)O | C7H6N4O
reactant | phosphorus pentasulfide | 25 gm | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
solvent | pyridine | 125 ml | N1=CC=CC=C1 | C5H5N
product | 2-Amino-4-mercaptopyrido[2,3-d]pyrimidine | NC=1N=C(C2=C(N1)N=CC=C2)S | C7H6N4S
